US05552476
Preparation of Octyltris(2-(2-methoxyethoxy)ethoxy)silane
To a dry flask fitted with an agitator, thermometer, additional funnel and reflux condenser was charged 222.8 g (0.90 mole) of octyltrichlorosilane and 225 g of heptane. The mixture was blanketed with nitrogen, heated to 80° C. and 333.7 g (2.78 mole) of 2-(2-methoxyethoxy)ethanol was added slowly over a 2 hour period. Hydrogen chloride was evolved from the mixture. After the addition was complete heating of the reaction was continued for 24 hours at 80° C. Then the solvent and all volatile components of the mixture were removed under vacuum, producing 451 g of the clear, colorless liquid product.

reactant | octyltrichlorosilane | 0.90 mole, 222.8 g | C(CCCCCCC)[Si](Cl)(Cl)Cl | C8H17Cl3Si
reactant | 2-(2-methoxyethoxy)ethanol | 2.78 mole, 333.7 g | COCCOCCO | C5H12O3
reactant | Hydrogen chloride | Cl | ClH
solvent | heptane | 225 g | CCCCCCC | C7H16
product | Octyltris(2-(2-methoxyethoxy)ethoxy)silane | C(CCCCCCC)[Si](OCCOCCOC)(OCCOCCOC)OCCOCCOC | C23H50O9Si
